US05468898
To a solution of 27.07 g (171.95 mmol) of bromoacetyl chloride in 100 ml of methylene chloride, cooled to -25° C. by means of an external cooling bath, is added dropwise a solution of 46.5 g (343.9 mmol) of N-methyl-N-phenethyl amine in 50 ml of methylene chloride over a period of 11/2 hours. The reaction mixture is stirred at -25° C. for additional 15 minutes and then allowed to equilibrate to room temperature. The reaction mixture is then partitioned between methylene chloride and water. The organic layer is washed with 1N aqueous HCl solution and water, dried over magnesium sulfate and concentrated in vacuo to give N-methyl-N-phenethyl-2-bromoacetamide which is used directly in the next step.

reactant | bromoacetyl chloride | 171.95 mmol, 27.07 g | BrCC(=O)Cl | C2H2BrClO
reactant | N-methyl-N-phenethyl amine | 343.9 mmol, 46.5 g | CNCCC1=CC=CC=C1 | C9H13N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-phenethyl-2-bromoacetamide | CN(C(CBr)=O)CCC1=CC=CC=C1 | C11H14BrNO
